US03959322
dl-13-Ethyl-17β-propoxygon-4-en-3-one
Treat a suspension of 1.5 g. of dl-13-ethyl-3-methoxy-17β-propoxygona-1,3,5(10)-triene, 75 ml. of 1,2-dimethoxyethane, 75 ml. of 1-methoxy-2-propanol, and 300 ml. of liquid ammonia with 5.0 g. of lithium. When the reaction ends add 1.5 g. of ammonium chloride and water. Collect the precipitate of dl-13-ethyl--3-methoxy-17β-propoxygona-2,5(10)-diene, and add it to a solution of 50 ml. of methanol, 5 ml. of conc. hydrochloric acid, and 4 ml. of water. Stir for 0.5 hours. Filter off a small amount of insoluble material. Add water to clean solution and extract with ether. Recrystallize from ether-petroleum ether to obtain the title product, m.p. 88°-89°; ultraviolet peak at 242 mμ (ε16,600); infrared peaks at 6.00, 6.19μ.

reactant | 13-ethyl-3-methoxy-17β-propoxygona-1,3,5(10)-triene | C(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)C=1C=CC(=CC1CC2)OC)OCCC | C23H34O2
reactant | 1-methoxy-2-propanol | COCC(C)O | C4H10O2
reactant | ammonia | N | H3N
reactant | lithium | [Li] | Li
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | water | O | H2O
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | 13-Ethyl-17β-propoxygon-4-en-3-one | C(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCC(C=C1CC2)=O)OCCC | C22H34O2
